US07538115B2
N3-(3-Pyrrolidin-1-yl-propyl)-pyridine-3,4-diamine
1.300 g (5.940 mmol) 3-bromo-4-nitro-pyridine-1-oxide and 0.980 g (7.430 mmol) 3-pyrrolidin-1-yl-propylamine was added to a suspension of 0.820 g (5.940 mmol) potassium carbonate in 20 mL DMF and the mixture was stirred for 3 hours at 90° C. The solvent was evaporated i. vac. and the residue purified by column chromatography (Alox (neutral, activity II-III), gradient dichloromethane/MeOH 100:0→95:5 v/v) (0.950 g, 60% of theory). 0.900 g (3.380 mmol) of the intermediate product was added to a suspension of 300 mg Pd/C in 10 mL EtOH and the mixture was hydrogenated for 4.5 hours at RT and 50 psi H2-pressure. The catalyst was removed by filtration and the filtrate evaporated i. vac. The product is present in admixture with the corresponding pyridine-N-oxide and was used in the next reaction step without any further purification.

reactant | 3-bromo-4-nitro-pyridine-1-oxide | 5.940 mmol, 1.300 g | BrC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C5H3BrN2O3
reactant | 3-pyrrolidin-1-yl-propylamine | 7.430 mmol, 0.980 g | N1(CCCC1)CCCN | C7H16N2
reactant | potassium carbonate | 5.940 mmol, 0.820 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | N3-(3-Pyrrolidin-1-yl-propyl)-pyridine-3,4-diamine | N1(CCCC1)CCCNC=1C=NC=CC1N | C12H20N4
